US05814324
(1R)-1-[2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (31.5 g) and 40 g of 3,5-dinitrobenzoyl chloride were dissolved in 500 ml of methylene chloride and, under ice-cooling, 24.1 ml of triethylamine was added dropwise thereinto. After the reaction mixture was stirred at room temperature for 3.5 hours, the resultant mixture was washed successively with 150 ml of water and with 150 ml of 5% aqueous solution of sodium bicarbonate. The resultant was dried over magnesium sulfate and concentrated under reduced pressure. The precipitated crystals were collected by filtration and washed with methylene chloride. The mother liquor and the washing were collected and the solvent was distilled off under reduced pressure. To the residue were added 25 ml of ethyl acetate and 300 ml of methanol, and the mixture was cooled with ice. The precipitated crystals were collected by filtration and recrystallized from a mixture of 25 ml of ethyl acetate and 250 ml of methanol to give 28.7 g of [(1R)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethyl]3,5-dinitrobenzoate as colorless needles.

reactant | (1R)-1-[2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 31.5 g | FC1=C(C=CC(=C1)F)C1(OC1)[C@@H](C)O | C10H10F2O2
reactant | 3,5-dinitrobenzoyl chloride | 40 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | triethylamine | 24.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | [(1R)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethyl]3,5-dinitrobenzoate | 28.7 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C17H12F2N2O7
